US06294558B1
To a stirred solution of 3-fluoro-4-(methylthio)benzaldehyde (3.04 g, 17.9 mmol) in ethanol (12 mL) was added methyl vinyl ketone (1.3 mL, 15.5 mmol), 3-benzyl-5-(2-hydroxyethyl)-4-methylthiazolium chloride (0.84 g, 3.1 mmol), and Et3N (4.32 mL, 31 mmol) at room temperature. After stirring for 2 hours, volatiles were removed by evaporation. The residue was taken up with ethyl acetate (200 mL), and washed with water (120 mL), dil. aqueous HCl (120 mL), water (120 mL), brine (120 mL), dried over MgSO4, and concentrated in vacuo. The resulting crude residue was purified by flash chromatography on silica gel eluting with ethyl acetate/hexane (1/2) to provide 1-[3-fluoro-4-(methylthio)phenyl]pentane-1,4-dione (2.7 g, 73% yield). To a stirred suspension of 1-[3-fluoro-4-(methylthio)phenyl]pentane-1,4-dione (2.7 g, 11.25 mmol) in methanol (50 mL) was added Oxone (14.14 g, 23 mmol) in water (50 mL) at room temperature. After stirring for 5 hours, the mixture was diluted with water. The whole was extracted with CH2Cl2 (50 mL×4), the combined organic layer washed with brine, dried over MgSO4, and evaporated in vacuo to give the subtitle compound (2.8 g, 66% yield).

reactant | 3-fluoro-4-(methylthio)benzaldehyde | 17.9 mmol, 3.04 g | FC=1C=C(C=O)C=CC1SC | C8H7FOS
reactant | methyl vinyl ketone | 15.5 mmol, 1.3 mL | C(=C)C(=O)C | C4H6O
reactant | Et3N | 31 mmol, 4.32 mL | CCN(CC)CC | C6H15N
solvent | ethanol | 12 mL | C(C)O | C2H6O
catalyst | 3-benzyl-5-(2-hydroxyethyl)-4-methylthiazolium chloride | 3.1 mmol, 0.84 g | [Cl-].C(C1=CC=CC=C1)[N+]1=CSC(=C1C)CCO
product | 1-[3-fluoro-4-(methylthio)phenyl]pentane-1,4-dione | 2.7 g, 73% yield | FC=1C=C(C=CC1SC)C(CCC(C)=O)=O | C12H13FO2S
